### PR TITLE
[Merged by Bors] - feat: `LinearOrder α` extends `Ord α`

### PR DESCRIPTION
**Pull request by thorimur**
This PR makes `LinearOrder` lawfully extend `Ord`.

Since `LinearOrder` has decidable order relations, we take `compare` to be `compareOfLessAndEq` by default for a linear order.

Since typeclass synthesis is preferred by structure instances to optparams, this does not create non-defeq diamonds for types which already have a different implementation of `Ord`.

We also add a field `compare_eq_compareOfLessAndEq` which encodes the lawful quality by demanding equality to the canonical comparison.

Motivation: `Array` functions like `min` largely use `Ord`, so this lets us seamlessly use these array functions when we only have a linear order.

See [zulip](https://leanprover.zulipchat.com/#narrow/stream/287929-mathlib4/topic/Ord.20.C9.91.20from.20LinearOrder.20.C9.91.3F).

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Init/Algebra/Order.lean [hunk 1]
```diff
@@ -232,6 +232,9 @@ class LinearOrder (α : Type u) extends PartialOrder α, Min α, Max α :=
   min_def : ∀ a b, min a b = if a ≤ b then a else b := by intros; rfl
   /-- The minimum function is equivalent to the one you get from `maxOfLe`. -/
   max_def : ∀ a b, max a b = if a ≤ b then b else a := by intros; rfl
+  compare a b := compareOfLessAndEq a b
+  /-- Comparison via `compare` is equal to the canonical comparison given decidable `<` and `=`. -/
+  compare_eq_compareOfLessAndEq : ∀ a b, compare a b = compareOfLessAndEq a b := by intros; rfl
```
Comment (eric-wieser) [inline Mathlib/Init/Algebra/Order.lean:237]:
```suggestion
  compare_eq_compareOfLessAndEq (a b) : compare a b = compareOfLessAndEq a b := by rfl
```
(untested)

Comment (thorimur) [reply Mathlib/Init/Algebra/Order.lean:237]: Weirdly, seems like the autoparam still attaches to the overall term, not the inner term, so it still needs `intros`.

File: Mathlib/Init/Algebra/Order.lean [hunk 2]
```diff
@@ -214,9 +215,14 @@ if a ≤ b then b else a
 def minDefault {α : Type u} [LE α] [DecidableRel ((· ≤ ·) : α → α → Prop)] (a b : α) :=
 if a ≤ b then a else b
 
+macro "compareOfLessAndEq_rfl" : tactic =>
+  `(tactic| (intros a b; first | rfl |
+    (simp only [compare, compareOfLessAndEq]; split_ifs <;> rfl) |
+    (induction a <;> induction b <;> simp only [])))
```
Comment (eric-wieser) [inline Mathlib/Init/Algebra/Order.lean:221]: Can you add an explanation of what the heuristics here are?

File: Mathlib/Init/Algebra/Order.lean [hunk 3]
```diff
@@ -232,6 +238,10 @@ class LinearOrder (α : Type u) extends PartialOrder α, Min α, Max α :=
   min_def : ∀ a b, min a b = if a ≤ b then a else b := by intros; rfl
   /-- The minimum function is equivalent to the one you get from `maxOfLe`. -/
   max_def : ∀ a b, max a b = if a ≤ b then b else a := by intros; rfl
+  compare a b := compareOfLessAndEq a b
+  /-- Comparison via `compare` is equal to the canonical comparison given decidable `<` and `=`. -/
+  compare_eq_compareOfLessAndEq : ∀ a b, compare a b = compareOfLessAndEq a b := by
```
Comment (eric-wieser) [inline Mathlib/Init/Algebra/Order.lean:243]: Do we have any lemmas that say `compare a b = lt \iff a < b` etc?

File: Mathlib/Init/Algebra/Order.lean (hunk 2 above)
Comment (thorimur) [reply Mathlib/Init/Algebra/Order.lean:230]: done!

File: Mathlib/Init/Algebra/Order.lean (hunk 3 above)
Comment (thorimur) [reply Mathlib/Init/Algebra/Order.lean:252]: Ooh, right, we should have those. Assuming I didn't miss them (quite possible), I'd like to add them somewhere. If so I'll do so tomorrow.

**Comment by eric-wieser** [comment]
https://github.com/leanprover/std4/pull/74/files looks related here.

We should probaby add a `LinearOrder.toOrientedCmp` instance and similar in the meantime.

File: Mathlib/Init/Algebra/Order.lean (hunk 3 above)
Comment (thorimur) [reply Mathlib/Init/Algebra/Order.lean:252]: Okay, I've added `compare_lt_iff_lt`, `compare_gt_iff_gt`, `compare_eq_iff_eq`, and `compare_trichotomy`. Are there any others you can think of that we should have?

File: Mathlib/Init/Algebra/Order.lean [hunk 4]
```diff
@@ -337,4 +356,33 @@ theorem le_imp_le_of_lt_imp_lt {β} [Preorder α] [LinearOrder β]
...
+  case _ h   => exact false_iff_iff.2 <| ne_iff_lt_or_gt.2 <| .inl h
+  case _ _ h => exact true_iff_iff.2 h
+  case _ _ h => exact false_iff_iff.2 h
+
+theorem compare_trichotomy {a b : α} :
+    (compare a b = .lt) ∨ (compare a b = .eq) ∨ (compare a b = .gt) :=
+  lt_by_cases a b
+    (fun h ↦ Or.inl (compare_lt_iff_lt.2 h))
+    (fun h ↦ Or.inr <| Or.inl (compare_eq_iff_eq.2 h))
+    (fun h ↦ Or.inr <| Or.inr (compare_gt_iff_gt.2 h))
```
Comment (eric-wieser) [inline Mathlib/Init/Algebra/Order.lean:384]: What;s the point of this lemma? It's true on any `Ord` instance, not just linear orders, as these are the only values of `Ordering` that exist.

Comment (thorimur) [reply Mathlib/Init/Algebra/Order.lean:384]: Whoops! Over-generalized without thinking... (Taking a break now, will fix later)

File: Mathlib/Init/Algebra/Order.lean [hunk 5]
```diff
@@ -383,6 +383,20 @@ theorem compare_trichotomy {a b : α} :
     (fun h ↦ Or.inr <| Or.inl (compare_eq_iff_eq.2 h))
     (fun h ↦ Or.inr <| Or.inr (compare_gt_iff_gt.2 h))
 
+-- TODO: generalize to instance of LE, Eq (and upstream?)
+-- Move?
+/-- The `Prop` corresponding to each `Ordering` constructor (e.g. `.lt.toProp a b` is `a < b`). -/
+def Ordering.toProp (o : Ordering) (a b : α) : Prop := match o with
+| .lt => a < b
+| .eq => a = b
+| .gt => a > b
```
Comment (eric-wieser) [inline Mathlib/Init/Algebra/Order.lean:392]: Perhaps cleaner as
```suggestion
def Ordering.toRel (o : Ordering) : α -> α -> Prop := match o with
| .lt => (· < ·)
| .eq => eq·
| .gt => (· > ·)
```
(but with unicode)

Comment (thorimur) [reply Mathlib/Init/Algebra/Order.lean:397]: Nice! I also absorbed `Ordering` into the type signature to get rid of the explicit `match` keyword. :)

File: Mathlib/Init/Algebra/Order.lean [hunk 6]
```diff
@@ -402,15 +402,16 @@ theorem compare_iff (a b : α) {o : Ordering} : compare a b = o ↔ o.toRel a b
   · exact compare_eq_iff_eq
   · exact compare_gt_iff_gt
 
-theorem compare_symm (a b : α) : Ordering.swap (compare a b) = compare b a := by
+-- These are `private` because the user-facing lemmas are the fields of the `TransCmp` instance.
```
Comment (eric-wieser) [inline Mathlib/Init/Algebra/Order.lean:405]: Why not just prove them inline?

Comment (thorimur) [reply Mathlib/Init/Algebra/Order.lean:405]: I was actually going to ask on zulip 1) if this kind of thing matters (re: expression size and re: time it takes to construct each "new" instance (do these function as autoparams if they're inline, in which case they're run each time?)) and 2) if there's a preferred style, in general.

Comment (eric-wieser) [reply Mathlib/Init/Algebra/Order.lean:405]: Proofs in `instance`s are only "run" once, just like any other lemma.

Comment (thorimur) [reply Mathlib/Init/Algebra/Order.lean:405]: Ok, sounds good; I'll inline them.

Comment (digama0) [reply Mathlib/Init/Algebra/Order.lean]: A lot of these theorems seem to be duplicated with `TransCmp`, see https://github.com/leanprover/std4/blob/main/Std/Classes/Order.lean . You should just prove or assert that the `Ord` is lawful and get the theorems that way.

Comment (thorimur) [reply Mathlib/Init/Algebra/Order.lean]: Which ones are duplicated? All of the new ones relate `Ordering` to `<`, `=`, and `>`, which as far as I can see doesn't happen in Std.Classes.Order

**Comment by semorrison** [comment]
bors d+

**Comment by thorimur** [comment]
Given that it's been reviewed, I'll merge this PR as-is. If we want to refactor some lemmas after all, let's do so after leanprover/std4#74 lands—I'll be happy to make that PR if desired.

bors r+
